US08334308B2
II.2; 1,3-dichloro-2-{2-[4-(bromomethyl)phenoxy]ethoxy}-5-methylbenzene
To a solution of {4-[2-(2,6-dichloro-4-methylphenoxy)ethoxy]phenyl}methanol from II.1, step 3 (1 eq.) in CH2Cl2 (0.1M) at room temperature was added a solution of trimethyl silyl bromide (1.05 eq.) in CH2Cl2 (1.0M). The final mixture was stirred 1 h at room temperature and then concentrated in vacuo. To the resulting suspension was added silica gel and the mixture was evaporated in vacuo. Purification by column chromatography on silica gel, eluting with Hex/Et2O 5%, afforded the desired compound as a crystalline white solid.

reactant | {4-[2-(2,6-dichloro-4-methylphenoxy)ethoxy]phenyl}methanol | ClC1=C(OCCOC2=CC=C(C=C2)CO)C(=CC(=C1)C)Cl | C16H16Cl2O3
reactant | trimethyl silyl bromide | 1.05 eq. | C[Si](C)(C)Br | C3H9BrSi
solvent | CH2Cl2 | 0.1M | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.0M | C(Cl)Cl | CH2Cl2
product | 1,3-dichloro-2-{2-[4-(bromomethyl)phenoxy]ethoxy}-5-methylbenzene | ClC1=C(C(=CC(=C1)C)Cl)OCCOC1=CC=C(C=C1)CBr | C16H15BrCl2O2
